US07674914B2
8.32 g (17.3 mmol) of 2-bromo-9,10-bis(4-fluorophenyl)-9,10-dihydro-9,10-anthracenediol, 5.17 g (31.1 mmol) of potassium iodide, 9.90 g (93.4 mmol) of sodium phosphinate monohydrate, and 50 mL of glacial acetic acid were put into a 200 mL three-neck flask, and the mixture was refluxed at 120° C. for 4 hours. Then, 20 mL of a 50% phosphinic acid was added into the reaction mixture, and the mixture was stirred for 1 hour at 120° C. After the reaction, the reaction mixture was washed with water, and the aqueous layer was extracted with ethyl acetate. This extracted solution was combined with the organic layer, and then dried with magnesium sulfate. After drying, the mixture was subjected to suction filtration, and the filtrate was concentrated. The obtained residue was dissolved in toluene, and filtered through Florisil, celite, and then alumina, and the filtrate was concentrated. The obtained residue was recrystallized with chloroform and hexane, giving 7.2 g of 2-bromo-9,10-bis(4-fluorophenyl)anthracene as light yellow powder in 74% yield.

reactant | 2-bromo-9,10-bis(4-fluorophenyl)-9,10-dihydro-9,10-anthracenediol | 17.3 mmol, 8.32 g | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)(O)C1=CC=C(C=C1)F)(O)C1=CC=C(C=C1)F | C26H17BrF2O2
reactant | potassium iodide | 31.1 mmol, 5.17 g | [I-].[K+]
reactant | sodium phosphinate monohydrate | 93.4 mmol, 9.90 g | O.[PH2]([O-])=O.[Na+]
reactant | phosphinic acid | [PH2](O)=O | H3O2P
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-9,10-bis(4-fluorophenyl)anthracene | 7.2 g, 74% yield | BrC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C26H15BrF2
